US09102591B2
5-Cyano-5-(6-fluoro-pyridin-3-yl)-2-hydroxy-cyclohex-1-enecarboxylic acid methyl ester
To a solution of (6-fluoro-pyridin-3-yl)-acetonitrile (15 g, 0.11 mol) and methyl acrylate (19 g, 0.22 mol) in dry THF (150 mL) cooled to −70° C. in dry ice-EtOH bath was added t-BuOK-THF solution (1M, 330 mL, 0.33 mol) in portions. The reaction mixture was stirred at −70° C. for 4 h. After completion (LCMS) 1N HCl (aq) was added slowly at −70° C. (the temperature of reaction mixture don't rise above −50° C.) to adjust the pH to 5-6. The THF layer was separated and the aqueous phase was extracted with EtOAc (2×150 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulphate, filtered and concentrated under reduced pressure to provide the crude title compound (32 g), which was used directly for the next step.

reactant | (6-fluoro-pyridin-3-yl)-acetonitrile | 0.11 mol, 15 g | FC1=CC=C(C=N1)CC#N | C7H5FN2
reactant | methyl acrylate | 0.22 mol, 19 g | C(C=C)(=O)OC | C4H6O2
reactant | t-BuOK THF | 0.33 mol, 1M, 330 mL | CC(C)(C)[O-].[K+].C1CCOC1
reactant | HCl | 1N | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | dry ice EtOH | C(=O)=O.CCO
product | 5-Cyano-5-(6-fluoro-pyridin-3-yl)-2-hydroxy-cyclohex-1-enecarboxylic acid methyl ester | 32 g | COC(=O)C1=C(CCC(C1)(C=1C=NC(=CC1)F)C#N)O | C14H13FN2O3
